US04285939
(a) 7,8-Dihydroxychromone-3-carbonyl chloride
A mixture of 7,8-dihydroxychromone-3-carboxylic acid (6.6 g, 30 mmol) and thionyl chloride (25 ml) was refluxed for 1 hour, and the thionyl chloride was removed. After the addition of benzene to the residue, the mixture was evaporated to dryness and the residue was triturated with n-hexane to give the desired compound (7.2 g).

reactant | 7,8-dihydroxychromone-3-carboxylic acid | 30 mmol, 6.6 g | OC1=CC=C2C(C(=COC2=C1O)C(=O)O)=O | C10H6O6
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 7,8-Dihydroxychromone-3-carbonyl chloride | 7.2 g | OC1=CC=C2C(C(=COC2=C1O)C(=O)Cl)=O | C10H5ClO5
